US07700782B2
i) Benzyl [2-(cyclohexyl {N-[2-(2,3-difluorophenyl)ethyl]-β-alanyl}amino)ethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate
Benzyl 2-(N-cyclohexylacrylamido)ethyl(2-(4-hydroxy-2-oxo-2,3-dihydrobenzo[d]thiazol-7-yl)ethyl)carbamate prepared as in Example 12 step i) (0.33 g), 2,3-difluorophenethylamine hydrochloride (0.244 g) and triethylamine (0.176 mL) were dissolved in ethanol (3 mL) and heated at 60° C. for 48 h. The mixture was cooled to room temperature, quenched with water, extracted with ethyl acetate, washed with water and brine, dried (Na2SO4), filtered and evaporated in vacuo to afford the sub-title product (0.420 g) as a light brown gum.

reactant | Benzyl 2-(N-cyclohexylacrylamido)ethyl(2-(4-hydroxy-2-oxo-2,3-dihydrobenzo[d]thiazol-7-yl)ethyl)carbamate | C1(CCCCC1)N(C(C=C)=O)CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O | C28H33N3O5S
reactant | 2,3-difluorophenethylamine hydrochloride | 0.244 g | Cl.FC1=C(CCN)C=CC=C1F
reactant | triethylamine | 0.176 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | Benzyl [2-(cyclohexyl {N-[2-(2,3-difluorophenyl)ethyl]-β-alanyl}amino)ethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | 0.420 g | C1(CCCCC1)N(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O)C(CCNCCC2=C(C(=CC=C2)F)F)=O | C36H42F2N4O5S
